US06207686B1
To a solution of (2RS,3RS)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionic acid (111 mg) in dimethylformamide (3 ml) were added L-tryptophan benzyl ester hydrochloride (198 mg), 1-hydroxybenzotriazole hydrate (60.8 mg), 1,3-dicyclohexylcarbodiimide (80.5 mg) and 4-methylmorpholine (91 mg) successively. After being stirred for 16 hours at ambient temperature, the mixture was poured into a mixture of diethyl ether and aqueous 1N hydrochloric acid solution. The organic layer was separated and the aqueous layer was extracted with diethyl ether. The combined organic layer was washed with aqueous bicarbonate solution and brine, dried and evaporated under reduced pressure. The residue was purified by chromatography to afford N-[(2RS,3RS)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3 hydroxypropionyl]-L-tryptophan benzyl ester (171 mg).

reactant | (2RS,3RS)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3-hydroxypropionic acid | 111 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC(C(=O)O)C(O)C1CCCCC1 | C23H28O4
reactant | L-tryptophan benzyl ester hydrochloride | 198 mg | Cl.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | 1-hydroxybenzotriazole hydrate | 60.8 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-dicyclohexylcarbodiimide | 80.5 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-methylmorpholine | 91 mg | CN1CCOCC1 | C5H11NO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[(2RS,3RS)-2-(2-benzyloxyphenylmethyl)-3-cyclohexyl-3 hydroxypropionyl]-L-tryptophan benzyl ester | 171 mg | C(C1=CC=CC=C1)OC([C@@H](NC(C(C(O)C1CCCCC1)CC1=C(C=CC=C1)OCC1=CC=CC=C1)=O)CC1=CNC2=CC=CC=C12)=O | C41H44N2O5
